US08629137B2
Step 1: 5-bromo-1,7-dimethyl-1H-indazole
2.11 g (10.0 mmol) 5-bromo-7-methyl-1H-indazole and 1.20 g (10.7 mmol) potassium-tert-butoxide in 50 mL THF were stirred overnight with 0.700 mL (11.2 mmol) iodomethane at RT. Then the precipitate was filtered off and the filtrate was evaporated down i. vac. The residue was purified by flash chromatography.

reactant | 5-bromo-7-methyl-1H-indazole | 10.0 mmol, 2.11 g | BrC=1C=C2C=NNC2=C(C1)C | C8H7BrN2
reactant | potassium-tert-butoxide | 10.7 mmol, 1.20 g | CC(C)([O-])C.[K+]
reactant | iodomethane | 11.2 mmol, 0.700 mL | IC | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-bromo-1,7-dimethyl-1H-indazole | BrC=1C=C2C=NN(C2=C(C1)C)C | C9H9BrN2
